US04808605
A mixture of 4.67 g (11.5 mmol) of [1S,2S]-2-(6-fluoro-1,2,3,4-tetrahydro-2-hydroxy-1-isopropyl-2-naphthyl)ethyl p-toluenesulphonate, 3.5 g (11.5 mmol) of 1-methyl-2-[3-(methylamino)propyl]-4.5-diphenylimidazole and 1.5 g (11.5 mmol) of N-ethyldiisopropylamine is stirred at 100° for 1 hour. The cooled mass is partitioned between water and methylene chloride and the organic phase is washed with a saturated solution of sodium chloride. dried over sodium sulphate and concentrated to dryness. The residual oil is chromatographed on 400 g of silica gel with methylene chloride/methanol (4:1) as the elution agent. The purified condensation product (5.3 of oil) is dissolved in 15 ml of methoxyacetic anhydride, treated with 0.85 ml of pyridine and the solution is stirred at 70° for 2 hours. The cooled reaction mixture is partitioned between 400 ml of methylene chloride and 400 ml of 3N aqueous sodium hydroxide solution and the mixture is stirred intensively at room temperature for 15 minutes. The separated aqueous phase is again extracted with 400 ml of methylene chloride, the combined extracts are washed with a saturated aqueous solution of sodium chloride, dried over sodium sulphate and concentrated to dryness. The oily residue is chromatographed on 350 g of silica gel with methylene chloride/methanol (9:1) as the elution agent. The oil obtained from the homogeneous fractions is dissolved in ethyl acetate and treated with an excess of hydrogen chloride in ether. The crystallizate is filtered off, washed with ether and dried. There are obtained 4.0 g (51%) of [1S,2S]-6-fluoro-1,2,3,4-tetrahydro-1-isopropyl-2-[2-[[3-(1-methyl-4,5-diphenylimidazol-2-yl)propyl]methylamino]ethyl]-2-naphthyl methoxyacetate dihydrochloride, m.p. 185°-189°, as an almost colourless crystalline powder.

reactant | [1S,2S]-2-(6-fluoro-1,2,3,4-tetrahydro-2-hydroxy-1-isopropyl-2-naphthyl)ethyl p-toluenesulphonate | 11.5 mmol, 4.67 g | C1(=CC=C(C=C1)S(=O)(=O)OCC[C@@]1([C@H](C2=CC=C(C=C2CC1)F)C(C)C)O)C | C22H27FO4S
reactant | 1-methyl-2-[3-(methylamino)propyl]-4.5-diphenylimidazole | 11.5 mmol, 3.5 g | CN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCNC | C20H23N3
reactant | N-ethyldiisopropylamine | 11.5 mmol, 1.5 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | hydrogen chloride | Cl | ClH
reactant | methoxyacetic anhydride | 15 ml | COCC(=O)OC(COC)=O | C6H10O5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
solvent | pyridine | 0.85 ml | N1=CC=CC=C1 | C5H5N
product | [1S,2S]-6-fluoro-1,2,3,4-tetrahydro-1-isopropyl-2-[2-[[3-(1-methyl-4,5-diphenylimidazol-2-yl)propyl]methylamino]ethyl]-2-naphthyl methoxyacetate dihydrochloride | 4.0 g, 51% | Cl.Cl.COCC(=O)O[C@]1([C@H](C2=CC=C(C=C2CC1)F)C(C)C)CCN(C)CCCC=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C38H46FN3O3.2ClH/c1-27(2)35-32-19-18-31(39)25-30(32)20-21-38(35,45-34(43)26-44-5)22-24-41(3)23-12-17-33-40-36(28-13-8-6-9-14-28)37(42(33)4)29-15-10-7-11-16-29;;/h6-11,13-16,18-19,25,27,35H,12,17,20-24,26H2,1-5H3;2*1H/t35-,38-;;/m0../s1
